US08071768B2
b. 4-{7-[3-(2-Oxo-pyrrolidin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide
4-{7-[3-(2-Oxo-pyrrolidin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester (as prepared in the previous step, 0.20 mmol) was treated with 50% TFA/CH2Cl2 (4 mL) for 2 h and the solvents were evaporated. To the residue was added (4-isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester (70.2 mg, 0.22 mmol), as prepared in Example 1a, followed by DIEA (130.5 mg, 1.01 mmol) in CH3CN (4 mL). The resulting mixture was heated at 95° C. for 1 h and the solvents were evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel (5% MeOH/EtOAc as eluent) to afford the product as a white solid (95.5 mg, 89% yield). 1H NMR (300 MHz, CDCl3) δ 9.14 (s, 1H), 8.06 (d, J=9.33 Hz, 1H), 7.33 (d, J=2.46 Hz, 1H), 7.28 (dd, J=9.30 and 2.65 Hz, 1H), 7.25 (m, 2H), 6.84 (d, J=8.93 Hz, 2H), 6.33 (br, 1H), 4.48 (m, 1H), 4.26 (m, 2H), 4.17 (t, J=6.10 Hz, 2H), 3.69 (m, 1H), 3.53 (t, J=6.99 Hz, 2H), 3.45 (t, J=7.02 Hz, 2H), 3.13 (td, J=12.85 and 2.83 Hz, 2H), 2.40 (t, J=7.78 Hz, 2H), 1.94-2.20 (m, 8H), 1.31 (d, J=6.06 Hz, 6H). LC-MS (ESI) calcd for C30H38N5O4 (MH+) 532.3, found 532.2. Anal. Calcd for C30H37N5O4: C, 67.77; H, 7.01; N, 13.17. Found: C, 67.81; H, 6.96; N, 13.16.

reactant | 4-{7-[3-(2-Oxo-pyrrolidin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCN1C(CCC1)=O | C25H34N4O4
reactant | TFA CH2Cl2 | 4 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | (4-isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester | 0.22 mmol, 70.2 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)OC(C)C)=O | C16H16N2O5
reactant | DIEA | 1.01 mmol, 130.5 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 4 mL | CC#N | C2H3N
product | 4-{7-[3-(2-Oxo-pyrrolidin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide | 95.5 mg, 89% yield | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCN1C(CCC1)=O | C30H37N5O4
